US05849943
(Z)-2-(4-(Methylsulfonyl)Phenyl)-3-Phenyl-2-Butene-1,4-Diol 1-Acetate
A solution of 2-(4-(methylsulfonyl)phenyl)-3-phenyl-2butene-1,4-diol (149 mg) and Et3N (0.2 mL) in 20 mL of CH2Cl2 was treated with Ac2O (0.05 mL) and DMAP (5 mg). After stirring for 10 min at r.t., the mixture was concentrated, and the residue was purified by flash chromatography eluted with 3:2 EtOAc/hexane to afford 40 mg of the title compound as a white solid along with 30 mg of its regioisomer as a syrup.

reactant | 2-(4-(methylsulfonyl)phenyl)-3-phenyl-2butene-1,4-diol | 149 mg | CS(=O)(=O)C1=CC=C(C=C1)C(CO)=C(CO)C1=CC=CC=C1 | C17H18O4S
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | Ac2O | 0.05 mL | CC(=O)OC(=O)C | C4H6O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (Z)-2-(4-(Methylsulfonyl)Phenyl)-3-Phenyl-2-Butene-1,4-Diol 1-Acetate | 40 mg | C(C)(=O)OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C19H20O5S
